US09290472B2
Sodium hydride (60% oil dispersion, 0.24 g) was added to a stirred solution of tert-butyl (S)-3-hydroxypyrrolidine-1-carboxylate (0.935 g) in THF (15 mL) and the mixture was stirred for 5 minutes. 2-Bromo-5-fluorobenzyl bromide (1.608 g) was added and stirring was continued for 20 hours. The resultant suspension was filtered and the filtrate was evaporated to dryness. The residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 0-15% to give tert-butyl (S)-3-(2-bromo-5-fluorobenzyloxy)-pyrrolidine-1-carboxylate (1.88 g) as a colourless oil.

reactant | Sodium hydride | 0.24 g | [H-].[Na+]
reactant | tert-butyl (S)-3-hydroxypyrrolidine-1-carboxylate | 0.935 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2-Bromo-5-fluorobenzyl bromide | 1.608 g | BrC1=C(CBr)C=C(C=C1)F | C7H5Br2F
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-3-(2-bromo-5-fluorobenzyloxy)-pyrrolidine-1-carboxylate | 1.88 g | BrC1=C(CO[C@@H]2CN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)F | C16H21BrFNO3
